US05101048
Preparation of 4-aminophenyl 1,5-dithio-β-D-xylopyranoside (Example 18)
170 mg of 10% palladium-on-charcoal are added to a solution of 1.7 g (5.61.10-3 mol) of 4-nitrophenyl 1,5-dithio-β-D-xylopyranoside in 150 ml of methanol. The reaction medium is kept under hydrogen pressure (3.5.105Pa) at room temperature for 3 days. Repeat amounts of 170 mg of 10% palladium-on-charcoal are added after stirring for 3 hours, 4 hours, 12 hours and 24 hours. The mixture obtained is filtered, the solvent is evaporated off under reduced pressure and the residue obtained is purified by flash chromatography using a CHCl3 /CH3OH mixture (9/1 v/v) as the eluent, and is then recrystallized from water to give 0.7 g (yield: 46%) of the expected product.

reactant | 4-nitrophenyl 1,5-dithio-β-D-xylopyranoside | 1.7 g | S([C@H]1[C@H](O)[C@@H](O)[C@H](O)CS1)C1=CC=C(C=C1)[N+](=O)[O-] | C11H13NO5S2
solvent | methanol | 150 ml | CO | CH4O
catalyst | palladium-on-charcoal | 170 mg | [Pd] | Pd
catalyst | palladium-on-charcoal | 170 mg | [Pd] | Pd
product | 4-aminophenyl 1,5-dithio-β-D-xylopyranoside | 0.7 g, yield: 46% | S([C@H]1[C@H](O)[C@@H](O)[C@H](O)CS1)C1=CC=C(C=C1)N | C11H15NO3S2
